US07569727B2
Preparation of 1-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-propane-1,2-dione 1-(O-methyl-oxime) of formula
0.8 g of 1-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-propane-1,2-dione 1-oxime, 0.43 g of potassium carbonate and 0.26 g of methyl iodide are stirred in 10 ml of dimethylformamide at room temperature for 2 hours. The reaction mixture is poured into water and extracted with ethyl acetate. After concentration of the organic phase and purification over silica gel, the title compound is obtained. 1H-NMR (CDCl3) 300 MHz: 2.30 (m, 2H), 2.51 (s, 3H), 4.08 (s, 3H), 4.15 (t, 2H), 4.29 (t, 2H), 4.59 (d, 2H), 6.11 (t, 1H), 6.83 (s, 2H), 6.95 (d, 2H), 7.30 (d, 2H)

reactant | 1-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-propane-1,2-dione 1-oxime | 0.8 g | ClC1=C(OCCCOC2=CC=C(C=C2)C(C(C)=O)=NO)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C21H19Cl4NO5
reactant | potassium carbonate | 0.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.26 g | CI | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-propane-1,2-dione 1-(O-methyl-oxime) | CON=C(C(C)=O)C1=CC=C(C=C1)OCCCOC1=C(C=C(C=C1Cl)OCC=C(Cl)Cl)Cl | C22H21Cl4NO5
